US07582769B2
2-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonic acid (2-morpholin-4-yl-2-oxo-ethyl)-amide
The title compound was prepared in a similar manner to 2-({2-[3-cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonyl}-methyl-amino)-N,N-diethyl-acetamide using {2-[3-cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonylamino}-acetic acid and morpholine.

reactant | 2-({2-[3-cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonyl}-methyl-amino)-N,N-diethyl-acetamide | C1(CCCCC1)N(C(NC=1SC(=CN1)S(=O)(=O)N(CC(=O)N(CC)CC)C)=O)[C@@H]1CC[C@H](CC1)C | C24H41N5O4S2
reactant | {2-[3-cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonylamino}-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)S(=O)(=O)NCC(=O)O)=O)[C@@H]1CC[C@H](CC1)C | C19H30N4O5S2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 2-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazole-5-sulfonic acid (2-morpholin-4-yl-2-oxo-ethyl)-amide | N1(CCOCC1)C(CNS(=O)(=O)C1=CN=C(S1)NC(=O)N([C@@H]1CC[C@H](CC1)C)C1CCCCC1)=O | C23H37N5O5S2
